US05162325
Step B: 2-Cyano-3-(4-bromomethylphenyl)pyridine
A mixture of 2-cyano-3-(4-tolyl)pyridine (940 mg, 4.84 mmol), N-bromosuccinimide (1.03 mg, 5.81 mmol), and dibenzoylperoxide (117 mg, 0.48 mmol) in CCl4 (70 mL) was heated to reflux to 2 h. The mixture was cooled then filtered through 50 g of silica gel eluting with CH2Cl2. The product was purified further by flash chromatography (20% EtOAc/hexanes) to give the above titled compound as a white solid.

reactant | 2-cyano-3-(4-tolyl)pyridine | 4.84 mmol, 940 mg | C(#N)C1=NC=CC=C1C1=CC=C(C=C1)C | C13H10N2
reactant | N-bromosuccinimide | 5.81 mmol, 1.03 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 0.48 mmol, 117 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 70 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Cyano-3-(4-bromomethylphenyl)pyridine | C(#N)C1=NC=CC=C1C1=CC=C(C=C1)CBr | C13H9BrN2
